US08222411B2
2-((6-chloro-3-methyl-2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)methyl)benzonitrile (2a).
To a solution of 6-chloro-3-methyluracil (1 equiv., 1 wt.), N-methylpyrrolidone (NMP; 4 vol.) and diisopropylethylamine (Hünig's base, 1.5 equiv., 1.21 wt.), was added a solution of α-bromotoluoylnitrile (1.1 equiv., 1.35 wt.) and toluene (4 vol.). The mixture was heated at 60-70° C. and agitated for 2-3 hrs, or until completion. The solution was then cooled to 20-30° C., quenched with deionized water (5 vol.) at less than 35° C., agitated for 30 min, cooled to 0-5° C., and then agitated for at least one hour. The resultant slurry was filtered, reslurried in isopropanol, displacement washed with isopropanol, and dried under vacuum at 55-60° C.

reactant | 6-chloro-3-methyluracil | 1 equiv. | ClC1=CC(N(C(N1)=O)C)=O | C5H5ClN2O2
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
reactant | diisopropylethylamine | 1.5 equiv. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-((6-chloro-3-methyl-2,4-dioxo-3,4-dihydropyrimidin-1(2H)-yl)methyl)benzonitrile | ClC1=CC(N(C(N1CC1=C(C#N)C=CC=C1)=O)C)=O | C13H10ClN3O2
